US08871948B2
To a solution of 2-phenyl-5-nitroindole (prepared as described in J. Org. Chem. (1966), 31(1), 65-9) (1.5 g; 6.3 mmol) in CH3CN (50 ml) was added K2CO3 (1.7 g; 12.6 mmol). To the mixture thus obtained was then added dropwise ethyl 4-bromobutanoate (3.3 g; 16 mmol) and the resulting mixture was heated to 120° C. under stirring for 18 hours. After cooling, the mixture was poured into water (500 ml) and the crude product was filtered, dried under vacuum to give ethyl 4-(5-nitro-2-phenyl-1H-indol-1-yl)butanoate which was used in the following reaction without any further purification.

reactant | 2-phenyl-5-nitroindole | 6.3 mmol, 1.5 g | C1(=CC=CC=C1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C14H10N2O2
reactant | K2CO3 | 12.6 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4-bromobutanoate | 16 mmol, 3.3 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | 500 ml | O | H2O
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | ethyl 4-(5-nitro-2-phenyl-1H-indol-1-yl)butanoate | [N+](=O)([O-])C=1C=C2C=C(N(C2=CC1)CCCC(=O)OCC)C1=CC=CC=C1 | C20H20N2O4
